US06362177B1
A solution of 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine (1.0 g, 4.2 mmol) in CH2Cl2 (21 mL) was treated with Et3N (0.76 mL, 5.44 mmol), dl-N-(tert-butoxycarbonyl)valine (1.09 g, 5.03 mmol), EDCI (883 mg, 4.61 mmol) and HOBt (623 mg, 4.61 mmol). The reaction mixture was stirred at 25° C. for 16 h. The resulting solution was diluted with CH2Cl2 (20 mL), and washed with 2 N NaOH solution (2×20 mL), brine (1×20 mL) and dried (MgSO4). Concentration and chromatography (SiO2, 3% CH3OH/CH2Cl2) afforded 1-(4-chlorobenzyl)-4-[{(N-Boc-valyl)amino}methyl]piperidine (1.1 g, 60%) as a pale amber oil: ESI/MS m/e 438 (M++H)

reactant | 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine | 4.2 mmol, 1.0 g | NCC1CCN(CC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
reactant | Et3N | 5.44 mmol, 0.76 mL | CCN(CC)CC | C6H15N
reactant | N-(tert-butoxycarbonyl)valine | 5.03 mmol, 1.09 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | EDCI | 4.61 mmol, 883 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.61 mmol, 623 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorobenzyl)-4-[{(N-Boc-valyl)amino}methyl]piperidine | 1.1 g, 60% | ClC1=CC=C(CN2CCC(CC2)CNC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C=C1 | C23H36ClN3O3
